Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
L shoulder and neck pain
 
Major Surgical or Invasive Procedure:
___ C5-6 ACDF with Varilift

 
History of Present Illness:
___
gentleman who has been having problems with his left shoulder
with a biceps tear or rupture that was only partially repaired 
as
well as the lack of pectoralis muscle on that side, but has
developed severe left-sided neck pain over the last couple of
months.  Failing physical therapy, injections and medication, in
fact physical therapy aggravated the problem as the injections. 
Unfortunately, he is developing some weakness and poor use of 
his
hands.  The weakness is in the left biceps in general, although
this is difficult to separate out from his biceps injury in the
past.  On his MRI, it shows a very large C5-C6 disc that is
central and to the left, it explains his symptoms, but it is
significantly compressing the spinal cord with some small amount
of cord signal as well there.
 
Past Medical History:
GERD
bipolar, PTSD 
s/p knee arthroscopy x2, shoulder arthroscopy, hernia repair 
 
Social History:
___
Family History:
NC
 
Physical Exam:
On Admission: 
L grip, L Bi ___ otherwise full strength
 
Pertinent Results:
___ 04:00AM BLOOD WBC-11.1* RBC-4.42* Hgb-14.3 Hct-43.4 
MCV-98 MCH-32.4* MCHC-32.9 RDW-13.8 RDWSD-49.5* Plt ___
___ 04:00AM BLOOD ___ PTT-31.2 ___
___ 04:00AM BLOOD Glucose-94 UreaN-9 Creat-0.8 Na-138 K-4.6 
Cl-102 HCO3-30 AnGap-11
___ 04:00AM BLOOD Calcium-9.3 Phos-4.7* Mg-1.9

___ C-spine AP/lateral x-rays
In comparison with the operative report of ___, there is 
little change in the appearance of the interbody spacer at 
C5-C6.  Prevertebral soft tissue swelling is present. 

 
Brief Hospital Course:
Patient presented electively for an ACDF C5-6 with Varilift on 
___. He tolerated the procedure well, was extubated in the OR, 
and transferred to the PACU post-operatively for further 
management and care. He had an episode of urinary retention 
post-operatively and was straight-catheterized.  He voided 
successfully thereafter.  Overnight, he had an episode of 
heartburn, but no associated symptoms of chest pain, jaw pain, 
shortness of breath.  He was given TUMS and his heartburn 
resolved.

On Hospital day 2, Mr. ___ was ambulating independently 
and his pain was well-controlled while taking oxycodone and 
acetaminophen.  He underwent routine cervical spine x-rays.  he 
was discharged home later that morning.  Discharge instructions 
are noted below.

At the time off discharge, Mr. ___ was neuro intact and 
hemodynamically stable.
 
Medications on Admission:
Abilify 2mg daily, cholecalciferol ___ units daily, Depakote ER 
1500mg QD, fish oil, omeprazole 10mg daily 
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
2. ARIPiprazole 2 mg PO DAILY 
3. Divalproex (DELayed Release) 1500 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
7. Diazepam 2 mg PO Q8H:PRN muscle spasm 
RX *diazepam 2 mg 1 tablet by mouth every eight (8) hours Disp 
#*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C5-6 Stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Surgery
Your dressing may come off on the second day after surgery. 
Your incision is closed with dissolvable sutures underneath the 
skin and steri strips. You do not need suture removal. Do not 
remove your steri strips, let them fall off.
Please keep your incision dry for 72 hours after surgery.
Please avoid swimming for two weeks.
Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
We recommend that you avoid heavy lifting, running, climbing, or 
other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
No contact sports until cleared by your neurosurgeon. 
Do NOT smoke. Smoking can affect your healing and fusion.

Medications
Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… for 2 weeks.
You may use Acetaminophen (Tylenol) for minor discomfort if you 
are not otherwise restricted from taking this medication.
It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
New weakness or changes in sensation in your arms or legs.
 
Followup Instructions:
___